US05958918
B. 2-[[1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(4,5-dichlorothiophene-2-sulfonyl)amino]acetic acid
To a solution of 2-[[1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(4,5-dichlorothiophene-2-sulfonyl)amino]acetic acid tert-butyl ester (0.40 g, 0.72 mmol) in 15 mL of CH2Cl2 is added 5 mL of TFA. After 2 hours, the solution is concentrated to give the title compound as a white foam.

reactant | 2-[[1-(5-cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(4,5-dichlorothiophene-2-sulfonyl)amino]acetic acid tert-butyl ester | 0.72 mmol, 0.40 g | C(C)(C)(C)OC(CN(S(=O)(=O)C=1SC(=C(C1)Cl)Cl)[C@@H]1C(N(CC1)CC1=CSC(=C1)C#N)=O)=O | C20H21Cl2N3O5S3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[[1-(5-Cyanothiophene-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-(4,5-dichlorothiophene-2-sulfonyl)amino]acetic acid | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(CC(=O)O)S(=O)(=O)C=1SC(=C(C1)Cl)Cl)=O | C16H13Cl2N3O5S3
